US08247429B2
(5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)acetonitrile
To a suspension of 60% sodium hydride (34.8 mg, 0.870 mmol) in tetrahydrofuran (3 mL) was added diethyl cyanomethylphosphonate (152 μL, 0.94 mmol), and the mixture was stirred at room temperature for 15 min. A suspension of 5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one (160 mg, 0.725 mmol) in tetrahydrofuran (3 mL) was added thereto, and the mixture was stirred at 50° C. for 4 hr. A solution prepared by adding diethyl cyanomethylphosphonate (152 μL, 0.94 mmol) to a suspension of 60% sodium hydride (34.8 mg, 0.870 mmol) in tetrahydrofuran (3 mL), and stirring the mixture at room temperature for 15 min was added to the reaction solution, and the mixture was further stirred at 50° C. for 4 hr. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was washed with diisopropyl ether to give the title compound (131 mg, yield 74%).

reactant | sodium hydride | 0.870 mmol, 34.8 mg | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.94 mmol, 152 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one | 0.725 mmol, 160 mg | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=O | C11H9ClN2O
reactant | diethyl cyanomethylphosphonate | 0.94 mmol, 152 μL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 0.870 mmol, 34.8 mg | [H-].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | (5-chloro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-ylidene)acetonitrile | 131 mg, yield 74% | ClC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=CC#N | C13H10ClN3
